US09029536B2
9-{4-[(1-Methyl-1H-benzimidazol-2-yl)oxy]phenyl}-7,8-dihydro-6H-pyrido[2,3-b]pyrrolizine
To a mixture of 9-[4-(1H-benzimidazol-2-yloxy)phenyl]-7,8-dihydro-6H-pyrido[2,3-b]pyrrolizine (70 mg) and K2CO3 (79 mg) in DMF (1 mL) was added MeI (0.024 mL). The mixture was stirred at 40° C. overnight. The mixture was poured into saturated NaHCO3 aqueous solution and extracted with AcOEt. The organic layer was separated, washed with brine, dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/hexane) to give the title compound (38.1 mg).

reactant | 9-[4-(1H-benzimidazol-2-yloxy)phenyl]-7,8-dihydro-6H-pyrido[2,3-b]pyrrolizine | 70 mg | N1C(=NC2=C1C=CC=C2)OC2=CC=C(C=C2)C=2C1=C(N3CCCC23)C=CC=N1 | C23H18N4O
reactant | K2CO3 | 79 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | MeI | 0.024 mL | CI | CH3I
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 9-{4-[(1-Methyl-1H-benzimidazol-2-yl)oxy]phenyl}-7,8-dihydro-6H-pyrido[2,3-b]pyrrolizine | 38.1 mg | CN1C(=NC2=C1C=CC=C2)OC2=CC=C(C=C2)C=2C1=C(N3CCCC23)C=CC=N1 | C24H20N4O
